US07449475B2
N-Cyclopropyl-2-hydroxybenzamide
A mixture of of methyl salicylate (4.36 g, 28.69 mmol) and cyclopropylamine (1.64 g) was heated in a sealed tube at 80-100° C. for 3 h. An additional 0.5 g of cyclopropylamine was added and heated at 70° C. overnight. The volatiles were removed in vacuo and the residue was purified by silica gel flash chromatography to give the subtitled compound (2.71 g).

reactant | methyl salicylate | 28.69 mmol, 4.36 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | cyclopropylamine | 1.64 g | C1(CC1)N | C3H7N
reactant | cyclopropylamine | 0.5 g | C1(CC1)N | C3H7N
product | N-Cyclopropyl-2-hydroxybenzamide | 2.71 g | C1(CC1)NC(C1=C(C=CC=C1)O)=O | C10H11NO2
